US06890947B2
To a solution of 17.7 ml lithium diisopropylamide (2 molar in tetrahydrofuran) in 40 ml tetrahydrofuran was added a solution of 5.61 g but-3-enyloxy-acetic acid ethyl ester [Tetrahedron (1982), 38(17), 2733-9] in 30 ml tetrahydrofuran at −78° C. After stirring for 30 min., a solution of 4.05 g 1-benzenesulfonyl-1H-indole-5-carbaldehyde in 30 ml tetrahydrofuran was added and stirring at −78° C. continued for additional 30 min. Then, the reaction mixture was quenched with 50 ml of saturated of ammonium chloride solution in water and warmed to ambient temperature. It was then extracted with ethyl acetate and the combined organic phases were washed with water, dried over magnesium sulfate and evaporated to give a crude product which was purified by chromatography (silicagel, eluent: gradient of n-heptane/ethyl acetate) to give 4.37 g of 3-(1-benzenesulfonyl-1H-indol-5-yl)-2-but-3-enyloxy-3-hydroxy-propionic acid ethyl ester (mixture of diasteromers) as colorless oil.

reactant | lithium diisopropylamide | 2 molar, 17.7 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | but-3-enyloxy-acetic acid ethyl ester | 5.61 g | C(C)OC(COCCC=C)=O | C8H14O3
reactant | 1-benzenesulfonyl-1H-indole-5-carbaldehyde | 4.05 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)C=O | C15H11NO3S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(1-benzenesulfonyl-1H-indol-5-yl)-2-but-3-enyloxy-3-hydroxy-propionic acid ethyl ester | 4.37 g | C(C)OC(C(C(O)C=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)OCCC=C)=O | C23H25NO6S
